US06413980B1
4-Dimethylaminopyridine (0.22 g, 1.79 mmol) was dissolved in 5 mL of methylene chloride and cooled in an ice-bath. Trifluoroacetic anhydride (0.0.42 mL, 2.98 mmol) was added. The mixture was stirred at 0° C. for ½ h, and a solution of 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one in 15 mL of methylene chloride was added. The ice-bath was removed, and the reaction mixture was stirred at room temperature under N2 for 12 h. It was diluted with methylene chloride and washed with water and brine. After drying over MgSO4, it was concentrated to give 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-4-trifluoroacetyl-2H-azepin-2-one as brown oil. LRMS (AP+): 465.0.0, 467.0, (M+H)+.

reactant | Trifluoroacetic anhydride | 2.98 mmol | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-2H-azepin-2-one | BrC1=CC(=C(C=C1)N1C(C(=CCCC1)N1CCOCC1)=O)F | C16H18BrFN2O2
catalyst | 4-Dimethylaminopyridine | 1.79 mmol, 0.22 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 5 mL | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 15 mL | C(Cl)Cl | CH2Cl2
product | 1,5,6,7-tetrahydro-1-[4-bromo-2-fluorophenyl]-3-(morpholin-4-yl)-4-trifluoroacetyl-2H-azepin-2-one | BrC1=CC(=C(C=C1)N1C(C(=C(CCC1)C(C(F)(F)F)=O)N1CCOCC1)=O)F | C18H17BrF4N2O3
